US08735384B2
A suspension of 6-(2-(3,4-dihydroisoquinolin-1-yl)-6-methylphenyl)-3-morpholinoquinolin-2-amine (0.0075 g, 0.017 mmol) in MeOH (0.50 mL) was treated with NaBH4 (25.0 mg, 0.661 mmol) and stirred at ambient temperature overnight. On following day, reaction mixture treated with 2N HCl and stirred for 2 h. The mixture was filtered and the filtrate was purified directly by reverse phase HPLC (1-90% acetonitrile/H2O, TFA modifier, 20 min). Single fraction freeze-dried to afford 6-(2-methyl-6-(1,2,3,4-tetrahydroisoquinolin-1-yl)phenyl)-3-morpholinoquinolin-2-amine (2,2,2-trifluoroacetate salt). MS (ESI, pos. ion) m/z: 451 (M+1).

reactant | 6-(2-(3,4-dihydroisoquinolin-1-yl)-6-methylphenyl)-3-morpholinoquinolin-2-amine | 0.017 mmol, 0.0075 g | C1(=NCCC2=CC=CC=C12)C1=C(C(=CC=C1)C)C=1C=C2C=C(C(=NC2=CC1)N)N1CCOCC1 | C29H28N4O
reactant | NaBH4 | 0.661 mmol, 25.0 mg | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 0.50 mL | CO | CH4O
product | 6-(2-methyl-6-(1,2,3,4-tetrahydroisoquinolin-1-yl)phenyl)-3-morpholinoquinolin-2-amine | CC1=C(C(=CC=C1)C1NCCC2=CC=CC=C12)C=1C=C2C=C(C(=NC2=CC1)N)N1CCOCC1 | C29H30N4O
